US04692465
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(4-hydroxyphenyl)ethanamine
N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine (3.5 g) in glacial acetic acid (30 ml) was hydrogenated in the presence of 10% Palladium on carbon at atmospheric pressure and room temperature until hydrogen uptake was complete. The solution was filtered through diatomaceous earth and the solvent removed under vacuum. The residue was partitioned between ethyl acetate and saturated aqueous sodium bicarbonate, the organic layer separated, dried (MgSO4) and evaporated to give an oil. The oil was crystallised from ethyl acetate to give the title compound, m.p. 145°-160° C. as a 40:60 mixture of diastereoisomers.

reactant | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(4-benzyloxyphenyl)-2-(2-hydroxyethoxy)ethanamine | 3.5 g | NC(=O)COC1=CC=C(C=C1)CC(C)NCC(OCCO)C1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H34N2O5
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
catalyst | Palladium on carbon | [Pd] | Pd
product | N-[2-(4-Aminocarbonylmethoxyphenyl)-1-methylethyl]-2-(2-hydroxyethoxy)-2-(4-hydroxyphenyl)ethanamine | NC(=O)COC1=CC=C(C=C1)CC(C)NCC(C1=CC=C(C=C1)O)OCCO | C21H28N2O5
